US07648987B2
3-tert-Butylsulfanyl-1-(8-fluoro-2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine
Into a 10 mL microwave vessel was added 1-bromo-3-tert-butylsulfanyl-imidazo[1,5-a]pyrazin-8-ylamine (23 mg, 0.000076 mol), 8-fluoro-2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline (0.032 g, 0.000092 mol), potassium fluoride (0.0089 g, 0.00015 mol), DME (2 mL, 0.02 mol), H2O (0.3 mL, 0.02 mol), DMF (0.34 mL, 0.0044 mol) and the reaction mixture was degassed 3×. Pd(PPh3)4 (0.02 g, 0.00002 mol) was then added to the reaction mixture and the vessel was sealed. The reaction mixture was microwaved on 300 watts, 100° C. for 30 min. Reaction mixture was concentrated in vacuo. Purification by Gilson HPLC eluting with 10→75% acetonitrile: H2O afforded the compound with pinacole impurity. The compound was then passed through a 2 g silica gel cartridge eluting with 6% EtOAc in hexanes followed by 4% MeOH in DCM to afford the pure compound as a yellow solid. 1H NMR (400 MHz, CD3OD-d4): δ=1.43 (s, 9H), 7.22 (d, J=5.05 Hz, 1H), 7.50-7.59 (m, 3H), 7.68-7.74 (m, 1H), 7.90-7.96 (m, 2H), 8.20 (d, J=8.59 Hz, 1H), 8.26 (d, J=7.83 Hz, 2H), 8.51 (dd, J=8.84, 1.26 Hz, 1H). MS(ES+):m/z 444.17 (100)[MH+]. HPLC: tR=3.24 min (Open Lynx polar—5 min).

reactant | 1-bromo-3-tert-butylsulfanyl-imidazo[1,5-a]pyrazin-8-ylamine | 0.000076 mol, 23 mg | BrC=1N=C(N2C1C(=NC=C2)N)SC(C)(C)C | C10H13BrN4S
reactant | 8-fluoro-2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline | 0.000092 mol, 0.032 g | FC=1C(=CC=C2C=CC(=NC12)C1=CC=CC=C1)B1OC(C(O1)(C)C)(C)C | C21H21BFNO2
reactant | potassium fluoride | 0.00015 mol, 0.0089 g | [F-].[K+]
reactant | DME | 0.02 mol, 2 mL | COCCOC | C4H10O2
reactant | H2O | 0.02 mol, 0.3 mL | O | H2O
reactant | DMF | 0.0044 mol, 0.34 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.00002 mol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-tert-Butylsulfanyl-1-(8-fluoro-2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine | C(C)(C)(C)SC1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2F)C2=CC=CC=C2 | C25H22FN5S
